US07544835B2
a) 2-Bromo-4-dimethoxymethyl-1-fluorobenzene
5 g of 3-Bromo-4-fluorobenzaldehyde was dissolved in 40 ml of methanol, and 7.8 g trimethyl o-formate and 0.42 g of p-toluene sulfonic acid were added thereto, and the mixture was stirred at room temperature for 4 hours. The reaction solution was diluted with water and sodium hydrogencarbonate, and extracted with ethylacetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and evaporated, to give 6.2 g of the title compound.

reactant | 3-Bromo-4-fluorobenzaldehyde | 5 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | p-toluene sulfonic acid | 0.42 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 40 ml | CO | CH4O
solvent | water | O | H2O
product | 2-Bromo-4-dimethoxymethyl-1-fluorobenzene | 6.2 g | BrC1=C(C=CC(=C1)C(OC)OC)F | C9H10BrFO2
